US05633270
The procedure is similar to that described in Example 1A, but starting with 1.32 g of tert-butyl (2R,4R)-3-(2-aminoacetyl)-2-(2-phenylphenyl)-4-thiazolidinecarboxylate and 0.47 g of 3-methylphenyl isocyanate. The crude product is purified by chromatography on silica [eluent: methylene chloride/ethyl acetate (90:10 by volume)]. The fractions containing the expected product are pooled and concentrated to dryness under reduced pressure at 40° C. After vigorous stirring in pentane, 0.22 g of tert-butyl (2R,4R)-3-{2-[3-(3-methylphenyl)-ureido]acetyl}-2-(2-phenylphenyl)-4-thiazolidinecarboxylate is thereby obtained in the form of an amorphous product; [α]D25 =-9.8±0.9° (C %=0.49; CHCl3).

reactant | tert-butyl (2R,4R)-3-(2-aminoacetyl)-2-(2-phenylphenyl)-4-thiazolidinecarboxylate | 1.32 g | NCC(=O)N1[C@H](SC[C@H]1C(=O)OC(C)(C)C)C1=C(C=CC=C1)C1=CC=CC=C1 | C22H26N2O3S
reactant | 3-methylphenyl isocyanate | 0.47 g | CC=1C=C(C=CC1)N=C=O | C8H7NO
product | tert-butyl (2R,4R)-3-{2-[3-(3-methylphenyl)-ureido]acetyl}-2-(2-phenylphenyl)-4-thiazolidinecarboxylate | 0.22 g | CC=1C=C(C=CC1)NC(NCC(=O)N1[C@H](SC[C@H]1C(=O)OC(C)(C)C)C1=C(C=CC=C1)C1=CC=CC=C1)=O | C30H33N3O4S
